US04443477
4-(2-Benzenesulphonamidoethyl)-phenylacetic acid [4-methylpiperazide]
To an ice-cooled solution of 3.0 g. (30 mmol) N-methylpiperazine and 100 ml. anhydrous pyridine are added portionwise, with stirring, in the course of one hour, 10.1 g. (30 mmol) 4-(2-benzenesulphonamidoethyl)-phenylacetyl chloride. Subsequently, the reaction mixture is allowed to warm up to 20° C., then heated for 5 hours at 90° C., cooled and poured into about 500 ml. ice water. The mixture is extracted with methylene chloride and the methylene chloride phase, after drying with anhydrous sodium sulphate, is evaporated. The residue is taken up in diethyl ether and the hydrochloride precipitated with ethereal hydrochloric acid. After recrystallization from ethanol, there are obtained 8.7 g. (66% of theory) 4-(2-benzenesulphonamidoethyl)-phenylacetic acid [4-methylpiperazide]hydrochloride; m.p. 168° C.

reactant | N-methylpiperazine | 30 mmol | CN1CCNCC1 | C5H12N2
reactant | 4-(2-benzenesulphonamidoethyl)-phenylacetyl chloride | 30 mmol | C1(=CC=CC=C1)S(=O)(=O)NCCC1=CC=C(C=C1)CC(=O)Cl | C16H16ClNO3S
reactant | 4-(2-benzenesulphonamidoethyl)-phenylacetic acid [4-methylpiperazide]hydrochloride | Cl.CN1CCN(CC1)C(CC1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=CC=C1)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(2-Benzenesulphonamidoethyl)-phenylacetic acid [4-methylpiperazide] | CN1CCN(CC1)C(CC1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=CC=C1)=O | C21H27N3O3S
